US08242153B2
e) 4-(4-Fluoro-phenyl)-4-methyl-pentanal
To a solution of 4-(4-fluoro-phenyl)-4-methyl-pentanoic acid methoxy-methyl-amide (3.90 g) in tetrahydrofuran (70 ml) at −30° C. was added dropwise over 10 min a suspension of lithium aluminum hydride in tetrahydrofuran (15.4 ml, 1 M suspension). The mixture was stirred for a further 30 min at −30° C. and then cooled to −78° C. The mixture was quenched by dropwise addition of acetone (25 ml) and the mixture was then allowed to warm to room temperature. The mixture was then diluted with water and taken up in ethyl acetate. The mixture was washed sequentially with 1 N aq. hydrochloric acid and with saturated brine, then dried over Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography (SiO2, heptane/EtOAc gradient) to yield a colourless oil, (1.62 g, 54%).

reactant | 4-(4-fluoro-phenyl)-4-methyl-pentanoic acid methoxy-methyl-amide | 3.90 g | CON(C(CCC(C)(C)C1=CC=C(C=C1)F)=O)C | C14H20FNO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 M, 15.4 ml | O1CCCC1 | C4H8O
product | 4-(4-Fluoro-phenyl)-4-methyl-pentanal | FC1=CC=C(C=C1)C(CCC=O)(C)C | C12H15FO
